US04137401
The antigenic determinant 8-methoxycarbonyloctyl β-D-galactopyranoside (1).
8-Methoxycarbonyl-1-octanol (21.4 g, 0.115 mole) and dried mercuric cyanide (30.3 g, 0.119 mole) were dissolved in a 1:1 mixture of dry distilled benzene-nitromethane (850 ml). The solution was stirred and 200 ml of solvent was distilled. Mixed solvent (200 ml) was added and calcium sulfate (40 g) was added followed by 2,3,4,6-tetra-O-acetyl-α-D-galactosyl bromide (38.7 g, 0.094 mole). The mixture was stirred at room temperature for 36 h and then heated at 70° for 2 h. After cooling, the solution was filtered and the filtrate evaporated in vacuo to give a yellow syrup. This syrup was dissolved in distilled ethyl acetate (500 ml) and the solution was washed with an aqueous solution (10% w/w, 500 ml) of sodium iodide. The organic phase was then washed successively with a saturated solution of sodium thiosulphate (200 ml) and H2O (2 × 250 ml). The organic phase was dried over sodium sulphate and then evaporated in vacuo after filtration. This syrup (~50 g) after drying under high vacuum overnight was dissolved in dry distilled methanol (200 ml) and to this solution, 200 ml of methanolic sodium methoxide (150 mg of sodium) was added. After stirring at room temperature for 24 h, acid resin (prewashed a few times in methanol) was added and stirred until the pH was neutral. After filtration, the solution was evaporated and the waxy residue dissolved at room temperature in 100 ml of H2O. This solution was extracted with ether (2 × 40 ml) and then placed in the fridge. Upon standing, crystallization occurred. The white crystals were filtered and dried. Weight 13.5 g (41%), mp 104°-105°, [α]D25 - 13.4° (c 1, 95% ethanol).

reactant | 8-Methoxycarbonyl-1-octanol | 0.115 mole, 21.4 g | COC(=O)CCCCCCCCO | C10H20O3
reactant | 2,3,4,6-tetra-O-acetyl-α-D-galactosyl bromide | 0.094 mole, 38.7 g | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)Br | C14H19BrO9
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 8-methoxycarbonyloctyl β-D-galactopyranoside | O([C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)CCCCCCCCC(=O)OC | C16H30O8
